US07375099B2
a) 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid tert-butyl ester
To a cooled solution (0° C.) of 2-methyl-malonic acid mono-tert-butyl ester (1.01 g, 5.79 mmol) and 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one (1.15 g, 4.83 mmol) in THF (8 ml) was added hydroxybenzotriazole (652 mg, 4.83 mmol), diisopropylethylamine (624 mg, 4.83 mmol)and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (925 mg, 4.83 mmol), and the mixture was stirred overnight at r.t. The solvent was evaporated, the residue was taken up in ethyl acetate, washed with water, and dried (Na2SO4). After evaporation of the solvent, the title compound, MS: m/e=395.3 (M+H+), (920 mg, 48%) was obtained by chromatographic purification of the residue (silica gel, MeOH, CH2Cl2).

reactant | 2-methyl-malonic acid mono-tert-butyl ester | 5.79 mmol, 1.01 g | C(C)(C)(C)OC(C(C(=O)O)C)=O | C8H14O4
reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | 4.83 mmol, 1.15 g | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | hydroxybenzotriazole | 4.83 mmol, 652 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | diisopropylethylamine | 4.83 mmol, 624 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.83 mmol, 925 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 2-Methyl-N-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid tert-butyl ester | C(C)(C)(C)OC(C(C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)C)=O | C23H26N2O4
